US09328134B2
To a suspension of Hg(OAc)2 (0.88 g, 2.8 mmol, 1.0 equiv) in dry THF (50 mL) under nitrogen atmosphere was added (2R,3R,4R,5R)-1,3,4,5-tetrakis(benzyloxy)hept-6-en-2-ol (1.5 g, 2.78 mmol, 1.0 equiv) dissolved in 20 mL of dry THF. The reaction was stirred at room temperature for 16 hours and then a saturated aqueous solution of potassium chloride (0.50 g, 4.5 mmol, 1.6 equiv) was added. After 30 minutes, the reaction mixture was diluted with EtOAc (80 mL), washed with water (20 mL), dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The material thus obtained was purified by silica gel chromatography, eluting with 30% EtOAc in petroleum ether, to give (((2S,3S,4S,5R,6R)-3,4,5-tris(benzyloxy)-6-((benzyloxy)methyl)tetrahydro-2H-pyran-2-yl)methyl)mercury(II) chloride as a pale yellow oil (1.5 g, 72%). 1H NMR (300 MHz, CDCl3) δ 7.45-7.15 (m, 20H), 4.62-4.39 (m, 7H), 4.33 (d, J=11.9 Hz, 1H), 4.24-4.11 (m, 1H), 4.08 (ddd, J=7.7, 5.9, 2.2 Hz, 1H), 3.89-3.76 (m, 2H), 3.72 (dd, J=4.2, 2.3 Hz, 1H), 3.68-3.57 (m, 1H), 3.39 (dd, J=8.5, 2.9 Hz, 1H), 2.18-1.96 (m, 2H). ESI (M+H2O) 792.0; calc for C35H37ClHgO5 774.2.

reactant | Hg(OAc)2 | 2.8 mmol, 0.88 g, 1.0 equiv | [Hg](OC(=O)C)OC(=O)C
reactant | (2R,3R,4R,5R)-1,3,4,5-tetrakis(benzyloxy)hept-6-en-2-ol | 2.78 mmol, 1.5 g, 1.0 equiv | C(C1=CC=CC=C1)OC[C@H]([C@H]([C@@H]([C@@H](C=C)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)O | C35H38O5
reactant | potassium chloride | 4.5 mmol, 0.50 g, 1.6 equiv | [Cl-].[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
product | (((2S,3S,4S,5R,6R)-3,4,5-tris(benzyloxy)-6-((benzyloxy)methyl)tetrahydro-2H-pyran-2-yl)methyl)mercury(II) chloride | 1.5 g, 72% | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C[Hg]Cl | InChI=1S/C35H37O5.ClH.Hg/c1-27-33(37-23-29-16-8-3-9-17-29)35(39-25-31-20-12-5-13-21-31)34(38-24-30-18-10-4-11-19-30)32(40-27)26-36-22-28-14-6-2-7-15-28;;/h2-21,27,32-35H,1,22-26H2;1H;/q;;+1/p-1/t27-,32-,33-,34-,35-;;/m1../s1
